US05849735
N-[4-(6,11-Dihydropyrido[2,3-b][1,5]benzodiazepin-6(5H)-ylcarbonyl)-3-chlorophenyl][1,1'-biphenyl]-2-carboxamide
A mixture of 0.197 g of 6,11-dihydropyrido[2,3-b][1,5]benzodiazepine, 0.444 g of 4-[([1,1'-biphenyl]-2-carbonyl)amino]-2-chlorobenzoyl chloride and 0.155 g of N,N-diisopropylethylamine in 8 ml of dichloromethane is stirred at room temperature for 1.5 hours. The mixture is poured into water and extracted with dichloromethane. The extract is washed with H2O, saturated NaHCO3, H2O, brine and dried (Na2SO4). The solution is filtered through a thin pad of hydrous magnesium silicate and the filtrate concentrated to dryness. The residue is chromatographed on thick layer silica gel plates with hexane-ethyl acetate (1:2) to give 0.160 g of solid, m.p. 147° C.-165° C. Anal Found: C, 72.1; H, 5.1; N, 9.1; Cl, 6.3.

reactant | 6,11-dihydropyrido[2,3-b][1,5]benzodiazepine | 0.197 g | N1=CC=CC2=C1NC1=C(NC2)C=CC=C1 | C12H11N3
reactant | 4-[([1,1'-biphenyl]-2-carbonyl)amino]-2-chlorobenzoyl chloride | 0.444 g | C=1(C(=CC=CC1)C(=O)NC1=CC(=C(C(=O)Cl)C=C1)Cl)C1=CC=CC=C1 | C20H13Cl2NO2
reactant | N,N-diisopropylethylamine | 0.155 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | water | O | H2O
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | N-[4-(6,11-Dihydropyrido[2,3-b][1,5]benzodiazepin-6(5H)-ylcarbonyl)-3-chlorophenyl][1,1'-biphenyl]-2-carboxamide | 0.160 g | N1=CC=CC2=C1NC1=C(N(C2)C(=O)C2=C(C=C(C=C2)NC(=O)C=2C(=CC=CC2)C2=CC=CC=C2)Cl)C=CC=C1 | C32H23ClN4O2
